Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
GI bleed
 
Major Surgical or Invasive Procedure:
Colonscopy with cautery and epinephrine injection ___

 
History of Present Illness:
This is ___ year old male with history of familial polyposis
status post colonoscopy with endoscopic mucosal resection for a
sessile carpeting 20mm polyp on ___ who re-presented with
onset of bright red blood per rectum on the night following the
procedure.  Patient reported 3 large movements of bright red
blood at home.  Mild dizziness with standing.  No chest pain,
dyspnea.  No nausea, hematemesis.

In the ED vital signs were 97.5 73 128/82 18 99%RA.  Labs were
notable for Hgb 12.9, K 4.1, Cr 1.2; While in the ED he was
reported to have had another episode of "liquid stool with frank
blood.  He was given 1L normal saline and admitted to medicine
for further management. 

On arrival to the floor patient confirmed above history. 
Reported a similar episode several years ago after a prior
colonoscopy.  Full 10 point review of systems positive where
noted, otherwise negative. 
 
Past Medical History:
Familial polyposis - diagnosed in ___
 
Social History:
___
Family History:
Brother, Sister and Father with familial ___
 
Physical Exam:
ADMISSION: 97.6 ___ 18 100%RA
Gen: sitting up in bed, comfortable
Eyes - EOMI
ENT - OP clear, MMM
Heart - RRR no mrg
Lungs - CTA bilaterally
Abd - soft nontender, normoactive bowel sounds
Ext - no edema
Skin - no rashes
Vasc - 2+ DP/radial pulses, PIV x 2
Neuro - AOx3, moving all extremities
Psych - appropriate

DISCHARGE
 
Pertinent Results:
ADMISSION
___ 01:55AM BLOOD WBC-7.6 RBC-4.13* Hgb-12.9* Hct-38.5* 
MCV-93 MCH-31.2 MCHC-33.5 RDW-12.6 RDWSD-43.1 Plt ___
___ 01:55AM BLOOD ___ PTT-29.8 ___
___ 01:55AM BLOOD Glucose-87 UreaN-18 Creat-1.2 Na-138 
K-8.2* Cl-104 HCO3-27 AnGap-15

DISCHARGE
___ 12:58PM BLOOD WBC-4.7 RBC-3.80* Hgb-11.8* Hct-35.7* 
MCV-94 MCH-31.1 MCHC-33.1 RDW-12.5 RDWSD-43.2 Plt ___

Colonoscopy ___
Impression:
A small amount of old blood was noted in the colon.
No evidence of active bleeding was noted.
A 2cm non-bleeding ulcer with a few pigmented spots was noted at 
the prior EMR site at the ___.
BI-CAP Electrocautery was applied for hemostasis successfully. 
9 cc.Epinephrine ___ injection was applied for hemostasis 
with success. 
Otherwise normal colonoscopy to cecum
 
Brief Hospital Course:
This is a ___ year old male with past medical history of familial 
polyposis status post colonoscopy and endoscopic mucosal 
resection on ___ admitted ___ with bright red blood 
per rectum and acute blood loss anemia, s/p repeat colonoscopy 
with hemostasis observed without repeat bleeding, discharged 
home

# Acute GI Bleed / Acute Blood Loss Anemia - patient presented < 
24 hours after a colonoscopy with BRBPR.  Hgb was 12.9 from a 
presumed normal previous value.  Patint underwent colonoscopy 
that showed: "A small amount of old blood was noted in the 
colon. No evidence of active bleeding was noted. A 2cm 
non-bleeding ulcer with a few pigmented spots was noted at the 
prior EMR site at the ___."  Electrocautery and epinephrine 
injection were performed.  Patient subsequently monitored over 
next day without signs of bleeding.  Advanced diet without 
issue.  Discharged home with PCP ___.  Discharge 
hemoglobin = 11.8. 

Transitional Issues
- Discharge Hgb = 11.8; can consider repeat Hgb check at 
___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Acute GI Bleed / Acute Blood Loss Anemia 
# Familial Polyposis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___: 

It was a pleasure caring for you at ___.  You were admitted 
for bleeding after a colonoscopy.  You underwent a repeat 
colonoscopy and were found to have some bleeding from your 
resection site--this was cauterized and underwent epinephrine 
injection.  Your bleeding resolved and your blood levels 
remained stable.  You are now ready for discharge home.  
 
Followup Instructions:
___